### PR TITLE
Homogenization instance

### LINKED ISSUE #38: prove the `extend` "axiom" of `Affine.Homogenization`
martin says its a theorem

### LINKED ISSUE #57: Prove equivalence of homogenization definitions
There are two potential definitions:

- embed is inj + embed.range = weight^-1 {1}
- isomorphism to canonical homogenization

Implement one and show that the other one is equivalent by providing a constructing in this direction.

For the first definition it is necessary to provide the induction-result that shows that every point in W can be written as c * embed(x) + embed.lin(v) for c in R, x in A and v in V.

### PR DESCRIPTION
**Pull request by ooovi**
getting canonical homogenization from #39431
showing its an instance of our homogenization
using it to prove faces of polytopes are faces (`face_isPolytope` in `Polyhedral.Mathlib.Geometry.Convex.ConvexSpace.Polytope.Homogenization`)

i realized our definition of homogenization is probably not good, because it quanitfies over universe levels in the `extend` field. this means actually there is one class per possible universe level of `U`, and we have to choose manually which one we want in the `face_isPolytope` proof and are probably going to run into more terrible trouble.

would close #38

### CODE REVIEW

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization.lean [hunk 1]
```diff
@@ -14,27 +16,72 @@ variable {V : Type*} [AddCommGroup V] [Module R V]
...
+  weight_equiv_canonical' : CanonicalHomogenization.weight ∘ equiv_canonical' = height
 
 namespace Homogenization
 
 variable [hom : Homogenization R A W]
 
-/-- Embedding the underlying vector space is exactly the height-0 hyperplane. -/
-theorem embed_linear_range_eq_height_ker : hom.linear.range = hom.height.ker := by
+/-- The canonical homogenization is a homogenization. -/
+@[reducible] instance canonical : Homogenization R A (CanonicalHomogenization R A) where
```
Comment (ooovi) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization.lean]: show that it suffices to give embed, height, and ambed_height to construct an iso to the canonical homogenization: every x in W can be written as `x = c * (embed p) + embed.linear v`. at least write down the theorem if its too complicated to prove rn

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization.lean [hunk 2]
```diff
@@ -14,27 +16,72 @@ variable {V : Type*} [AddCommGroup V] [Module R V]
...
-/-- An embedding of an affine space `A` into a vector space `W` s.t. the image of `A` is exactly the
-height-1 hyperplane under a given linear height map.
-Follows Definition 4.2 in https://www.cis.upenn.edu/~jean/gma-v2-root.pdf -/
-class Homogenization extends embed : A →ᵃ[R] W where
-  inj : Injective embed
+/-- A homogenization of an affine space `A` is a vector space that is linearly equivalent to the
+canonical homogenization of `A` together with an embedding and a height function that correspond to
+those of the canonical homogenization. -/
+class Homogenization where
+  embed : A →ᵃ[R] W
```
Comment (ooovi) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization.lean]: rename to `ofPoint`  etc to be consistent with the canonical

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization.lean (hunk 1 above)
Comment (ooovi) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization.lean]: write an instance for a hyperplane in a vector space

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization.lean (hunk 2 above)
Comment (ooovi) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization.lean]: maybe make a def repeating this to avoid havin to say `hom` everywhere

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization.lean [hunk 3]
```diff
@@ -14,6 +16,17 @@ variable {V : Type*} [AddCommGroup V] [Module R V]
 variable {A : Type*} [AddTorsor V A]
 variable {W : Type*} [AddCommGroup W] [Module R W]
 
+variable [PartialOrder R] [IsStrictOrderedRing R] in
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization.lean]: You should assume this as `variable [IsModuleConvexSpace R W]`. There already is [`IsModuleConvexSpace.ofModule`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Geometry/Convex/ConvexSpace/Module.html#Convexity.IsModuleConvexSpace.ofModule).

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization.lean [hunk 4]
```diff
@@ -61,35 +82,116 @@ theorem embed_ne_zero (x : A) : hom.embed x ≠ (0 : W) := by
...
+  LinearMap.CompatibleSMul.map_smul hom.embed.linear r v
+
+open CanonicalHomogenization HomogenizationExpr in
+/-- Every homogenization is linearly equivalent to the canonical homogenization. -/
+noncomputable def canonEquiv : W ≃ₗ[R] CanonicalHomogenization R A where
+  toFun x := by
+    let a₀ := Classical.arbitrary A
+    have v : x - hom.height x • hom.embed a₀ ∈ hom.embed.linear.range := by
+        simp [embed_linear_range_eq_height_ker, height_one a₀]
+    exact .mk (.mk ((LinearEquiv.ofInjective _ hom.linear_inj).invFun ⟨_, v⟩) (hom.height x) a₀)
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization.lean]: Let's have a separate lemma that says that every x has a representation with c,p, and v. Then choose here from this result rather than from A directly.

Comment (ooovi) [reply Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization.lean]: i'd like to define v here tho, otherwise the fact that it is the unique preimage of `x - hom.weight x • hom.ofPoint a₀` gets thrown away and i need it in the proof later

Comment (martinwintermath) [reply Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization.lean]: What do you mean by unique preimage? I dont see a map

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization.lean (hunk 1 above)
Comment (ooovi) [reply Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization.lean]: i made #59 for that

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization.lean (hunk 2 above)
Comment (ooovi) [reply Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization.lean]: i guess we'll do that once we figure out if it can reasonably be a class or no

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization.lean (hunk 4 above)
Comment (ooovi) [reply Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization.lean]: `(LinearEquiv.ofInjective _ hom.linear_inj).invFun` is a map and its linear which i also need. eg i use `LinearEquiv.map_smul` in the linearity proof

Comment (martinwintermath) [reply Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization.lean]: Sorry I dont understand the problem or we are not talking about the same. I ask you to write a lemma that returns "there existsd `p : P, v : V, c : R` with `x = c * embed p + embed.linear v`". You then use this lemma here. You do not get less than from what you do already, no?

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Polytope/Homogenization.lean [hunk 5]
```diff
@@ -0,0 +1,74 @@
...
+  have homF := hom.homogenize_isFaceOf F.isFaceOf
+  have := PointedCone.IsFaceOf.fg homC homF
+  convert FG.dehomogenize_isPolytope this (fun _ a b ↦ hom.weight_pos_of_mem_homogenize a b)
+  simp [hom.dehomogenize_homogenize_eq_id]
+
+/-- The face lattice of a polytope is graded by Homogenization cone face dimension. -/
+@[reducible]
+private noncomputable def Polytope.faceHomogenizationGradeOrder
+    (hCfg : IsPolytope R (C : Set A)) : GradeOrder ℕ C.Face := by
+  letI hom : Homogenization R A (CanonicalHomogenization R A) := inferInstance
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Polytope/Homogenization.lean]: These should be in a file like Polytope/Face.lean or Polytope/Face/Basic.lean or so.

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Polytope/Homogenization.lean [hunk 6]
```diff
@@ -0,0 +1,74 @@
...
+section Ring
+
+variable [Ring R] [PartialOrder R] [IsStrictOrderedRing R]
+variable [AddCommGroup V] [Module R V] [AddTorsor V A]
+attribute [local instance] AddTorsor.toConvexSpace
+variable {C : ConvexSet R A}
+
+open PointedCone
+
+variable [AddCommGroup W] [Module R W] [IsModuleConvexSpace R W] [hom : Homogenization R A W] in
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Polytope/Homogenization.lean]: Why these variables local to the lemma? Same below.

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Module.lean [hunk 7]
```diff
@@ -0,0 +1,25 @@
...
+
+section Ring
+
+variable [Ring R] [PartialOrder R] [IsStrictOrderedRing R]
+variable [AddCommGroup V] [Module R V] [AddTorsor V A]
+attribute [local instance] AddTorsor.toConvexSpace
+
+-- TODO we need this because IsModuleConvexSpace.ofModule uses the wrong convex space
+-- hopefully this problem will go away at some point...
+attribute [local instance] AddTorsor.toConvexSpace in
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Module.lean]: Is this not already defined in line 12 above?

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Polytope/Homogenization.lean [hunk 8]
```diff
@@ -0,0 +1,74 @@
...
+/-- The Homogenization cone of a polytope is finitely generated. -/
+theorem IsPolytope.homogenize_FG (hCfg : IsPolytope R (C : Set A)) :
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Polytope/Homogenization.lean]: What about the iff lemma? If it is hard to prove, can you at least formulate it?

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,223 @@
...
+variable {R : Type*} [Ring R]
+variable {V : Type*} [AddCommGroup V] [Module R V]
+variable {A : Type*} [AddTorsor V A]
+variable {W : Type*} [AddCommGroup W] [Module R W]
+
+variable (R A W) in
+/-- An embedding of an affine space `A` into a vector space `W` s.t. the image of `A` is exactly the
+weight-1 hyperplane under a given linear weight map.
+Follows Definition 4.2 in https://www.cis.upenn.edu/~jean/gma-v2-root.pdf -/
+class Homogenization extends ofPoint : A →ᵃ[R] W where
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Basic.lean]: Call this `IsHomogenization`?

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/ConvexSet.lean [hunk 10]
```diff
@@ -0,0 +1,197 @@
...
+
+lemma homogenize_bot_eq_bot : homogenize W (⊥ : ConvexSet R A) = ⊥ := by
+  simp [homogenize, Bot.bot]
+
+def homogenizationHom :
+    OrderHom (ConvexSet R A) (PointedCone R W) where
+  toFun P := homogenize W P
+  monotone' _ _ PlQ := Submodule.span_mono <| Set.image_mono PlQ
+
+theorem homogenize_empty_eq_bot : homogenize W (⟨∅, IsConvexSet.empty⟩ : ConvexSet R A) = ⊥ := by
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/ConvexSet.lean]: Is this not the same as `homogenize_bot_eq_bot`?

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/ConvexSet.lean [hunk 11]
```diff
@@ -0,0 +1,197 @@
...
+variable {W : Type*} [AddCommGroup W] [Module R W]
+variable [hom : Affine.Homogenization R A W]
+
+attribute [local instance] AddTorsor.toConvexSpace
+
+variable (W) in
+/-- The homogenization cone of a convex set in an affine space. -/
+def homogenize (P : ConvexSet R A) := PointedCone.hull R (hom.ofPoint '' P)
+
+lemma homogenize_bot_eq_bot : homogenize W (⊥ : ConvexSet R A) = ⊥ := by
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/ConvexSet.lean]: Call this `homogenize_bot`.

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/ConvexSet.lean [hunk 12]
```diff
@@ -0,0 +1,197 @@
...
+  simp [homogenize, Bot.bot]
+
+def homogenizationHom :
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/ConvexSet.lean]: `homogenizeHom`

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Homogenization.lean [hunk 13]
```diff
@@ -0,0 +1,197 @@
...
+theorem homogenize_empty_eq_bot : homogenize W (⟨∅, IsConvexSet.empty⟩ : ConvexSet R A) = ⊥ := by
+  simp [homogenize, SetLike.coe]
+
+variable [IsModuleConvexSpace R W]
+
+variable (A) in
+def dehomogenize (C : PointedCone R W) : ConvexSet R A :=
+  ⟨_, C.isConvexSet.preimage hom.ofPoint.isAffineMap⟩
+
+lemma ofPoint_dehomogenize_eq_inter_ofPoint (C : PointedCone R W) :
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Homogenization.lean:40]: Can we have this comparison not between sets but between `ConvexSet`? Is this already possible?

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/ConvexSet.lean [hunk 14]
```diff
@@ -0,0 +1,197 @@
...
+
+lemma weight_nonneg_of_mem_homogenize {x : W} {P : ConvexSet R A} (h : x ∈ homogenize W P) :
+    0 ≤ hom.weight x := by
+  by_cases hx : x = 0
+  · simp [hx]
+  · exact (weight_pos_of_mem_homogenize h hx).le
+
+variable (W) in
+lemma ofPoint_mem_homogenize_iff_mem (x : A) (P : ConvexSet R A) :
+  hom.ofPoint x ∈ homogenize W P ↔ x ∈ P := by
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/ConvexSet.lean]: Indent one more.

Comment (martinwintermath) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/ConvexSet.lean]: It is weird that you need to write hom.ofPoint with hom, but homogenize without hom. This can be fixed by writing ofPoint (and the others) a second time in the right namespace.

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/ConvexSet.lean [hunk 15]
```diff
@@ -0,0 +1,197 @@
...
+  simpa [← hom.ofPoint_injective hxx']
+
+/-- Dehomogenizing the homogenization of a convex set yields the same set again. -/
+theorem dehomogenize_homogenize_eq_id (P : ConvexSet R A) :
+    dehomogenize A (homogenize W P) = P := by
+  ext x; exact ofPoint_mem_homogenize_iff_mem _ _ _
+
+/-- If the entire cone save the origin are at positive weight, homogenizing the dehomogenization
+of the homogenize yields the cone again. -/
+theorem homogenize_dehomogenize_eq_id_of_pos {C : PointedCone R W}
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/ConvexSet.lean]: `homogenize_dehomogenize`

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/ConvexSet.lean [hunk 16]
```diff
@@ -0,0 +1,197 @@
...
+    (hC : ∀ x ∈ C, x ≠ 0 → 0 < hom.weight x) :
+    homogenize W (dehomogenize A C) = (C : PointedCone R W) := by
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/ConvexSet.lean]: Why type ascription necessary for C?

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/ConvexSet.lean [hunk 17]
```diff
@@ -0,0 +1,197 @@
...
+  obtain ⟨_, _, h'⟩ := smul_pos_of_mem_homogenize (Set.mem_preimage.mpr h) (ofPoint_ne_zero x)
+  obtain ⟨_, ⟨_, _, hyy'⟩, hy'⟩ := Set.mem_smul_set.mp h'
+  have := congrArg hom.weight hy'
+  simp [← hyy', weight_one] at this
+  simp only [this, Set.mem_image, one_smul, exists_eq_right] at h'
+  obtain ⟨_, _, hxx'⟩ := h'
+  simpa [← hom.ofPoint_injective hxx']
+
+/-- Dehomogenizing the homogenization of a convex set yields the same set again. -/
+theorem dehomogenize_homogenize_eq_id (P : ConvexSet R A) :
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/ConvexSet.lean]: `dehomogenize_homogenize`

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Homogenization.lean [hunk 18]
```diff
@@ -0,0 +1,197 @@
+import Polyhedral.Mathlib.Geometry.Convex.Cone.Pointed.Convexity
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Homogenization.lean:1]: This file should be at ConvexSpace/Set/Homogenization. Homogenization is the abstract algebraic notion that knows nothing about convexity.

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/ConvexSet.lean [hunk 19]
```diff
@@ -0,0 +1,197 @@
...
+    convert hull_eq_smul ?_ (C.isConvexSet.inter hom.ofPoint.range_isConvexSet)
+    · obtain ⟨y, hyC, hy0⟩ := exists_mem_ne_zero_of_ne_bot hbot
+      obtain ⟨_, hy'⟩ : (hom.weight y)⁻¹ • y ∈ (hom.ofPoint.range : Set W) := by
+        simpa [ofPoint_range_eq_preimage_weight_one] using inv_mul_cancel₀ (hC y hyC hy0).ne.symm
+      use (hom.weight y)⁻¹ • y, C.smul_mem (inv_nonneg.mpr (hC y hyC hy0).le) hyC
+      simp [← hy']
+
+section Faces
+
+theorem homogenize_isFaceOf {F P : ConvexSet R A} (he : F.IsFaceOf P) :
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/ConvexSet.lean]: This should be in ConvexSpace/Set/Face.lean or ConvexSpace/Set/Face/Homogenization.lean. Same below

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/ConvexSet.lean [hunk 20]
```diff
@@ -0,0 +1,197 @@
...
+theorem dehomogenize_isFaceOf {F C : PointedCone R W} (hf : F.IsFaceOf C) :
+    (dehomogenize A F).IsFaceOf (dehomogenize A C) where
+  subset := preimage_mono (fun _ x ↦ hf.le x)
+  left_mem_of_mem_openSegment  := by
+    rintro x hx y hy z hz ⟨a, b, ha, hb, hab, hzo⟩
+    refine hf.mem_of_smul_add_mem hx (C.smul_mem hb.le hy) ha ?_
+    rwa [← convexCombPair_eq_sum _ _ ha.le hb.le hab,
+      ← hom.ofPoint.isAffineMap.map_convexCombPair, hzo]
+
+def Face.homogenizationIso {P : ConvexSet R A} : OrderIso P.Face (homogenize W P).Face where
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/ConvexSet.lean]: `Face.homogenizeIso`

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean [hunk 21]
```diff
@@ -1,31 +1,66 @@
...
-variable [PartialOrder k] [IsStrictOrderedRing k]
-lemma AffineMap.range_isConvexSet (f : P →ᵃ[k] P2) : IsConvexSet k (f.range : Set P2) := by
+lemma rangeRestrict_injective_iff (f : P →ᵃ[k] P2) :
+    (rangeRestrict f).toFun.Injective ↔ f.toFun.Injective := by
+  simp [Function.Injective, rangeRestrict]
+
+variable [PartialOrder k] [IsStrictOrderedRing k] in
+attribute [local instance] AddTorsor.toConvexSpace in
+open Convexity in
+lemma range_isConvexSet (f : P →ᵃ[k] P2) : IsConvexSet k (f.range : Set P2) := by
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/AffineMap.lean]: Should be in some convexity file but not here.

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Basic.lean [hunk 22]
```diff
@@ -0,0 +1,223 @@
...
+
+variable [hom : Homogenization R A W]
+
+abbrev ofVector := hom.ofPoint.linear
+
+theorem linear_inj : Injective hom.ofVector := by
+  simp [hom.ofPoint_injective]
+
+/-- Embedding the underlying vector space is exactly the weight-0 hyperplane. -/
+theorem ofPoint_linear_range_eq_weight_ker : hom.ofVector.range = hom.weight.ker := by
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Basic.lean]: name does not match statement

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Basic.lean [hunk 23]
```diff
@@ -0,0 +1,223 @@
...
+  simp only [← hom.canonEquiv_canonical_ofPoint] at hF
+  simp only [LinearMap.coe_comp, LinearEquiv.coe_coe, comp_assoc, hF, true_and]
+  intro g hg
+  have := uF (g ∘ₗ hom.canonEquiv.symm.toLinearMap) ?_
+  · rw [← this, LinearMap.comp_assoc]
+    simp
+  · ext x
+    simp [← hg, ← hom.canonEquiv_canonical_ofPoint]
+
+theorem hom_ext {U : Type*} [AddCommGroup U] [Module R U] {f g : W →ₗ[R] U}
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Basic.lean]: weird name. Same below. `hom` is just a local variable name and should not appear in lemma names, no?

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Basic.lean [hunk 24]
```diff
@@ -0,0 +1,223 @@
...
+    (h : ∀ x, f (hom.ofPoint x) = g (hom.ofPoint x)) : f = g := by
+  rw [← LinearMap.eqLocus_eq_top, eq_top_iff, ← span_range_ofPoint (A := A), Submodule.span_le]
+  apply Set.range_subset_iff.mpr
+  simpa
+
+open AffineMap LinearEquiv in
+/-- The linear equivalence between the underlying vector space and its embedding. -/
+noncomputable def homLinearRangeEquiv : LinearEquiv (RingHom.id R) V hom.ofVector.range := {
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Basic.lean]: Use equiv notation. I remember I wrote this comment before. Where is it gone??

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Basic.lean [hunk 25]
```diff
@@ -0,0 +1,223 @@
...
+  map_smul' r v := by simp
+  invFun :=
+    (ofInjective hom.ofVector (linear_injective_iff _ |>.mpr ofPoint_injective)).invFun
+  left_inv :=
+    (ofInjective hom.ofVector (linear_injective_iff _ |>.mpr ofPoint_injective)).left_inv
+  right_inv v' := by simp
+}
+
+/-- The affine equivalence between the affine space space and its embedding. -/
+public noncomputable def homRangeEquiv : AffineEquiv R A hom.ofPoint.range :=
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Basic.lean]: Use equiv notation

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Homogenization.lean (hunk 13 above)
Comment (ooovi) [reply Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Homogenization.lean:40]: i dont think mapping affine maps over convex sets is defined yet

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/ConvexSet.lean (hunk 14 above)
Comment (ooovi) [reply Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/ConvexSet.lean]: i don't think i can repeat class fields as definitions. if i try, i get 
```
invalid declaration name `ofPoint`, structure `Affine.IsHomogenization` has field `ofPoint`
```
also i suggest postponing this refactoring once we;ve decided whether that thing is actually staying a class, because if i remove all the `hom.` and it turns out we need a struct after all i'll have to put them all back

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Homogenization.lean (hunk 13 above)
Comment (martinwintermath) [reply Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Homogenization.lean:40]: I try to make one later. Something like ConvexSet.map

Comment (martinwintermath) [reply Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Homogenization.lean:40]: There re now

```lean4
protected def map (C : ConvexSet R X) {f : X → Y} (hf : IsAffineMap R f) : ConvexSet R Y :=
  ⟨_, C.isConvexSet.image hf⟩

protected def comap (C : ConvexSet R Y) {f : X → Y} (hf : IsAffineMap R f) : ConvexSet R X :=
  ⟨_, C.isConvexSet.preimage hf⟩
```

Does this suffice?

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/ConvexSet.lean [hunk 26]
```diff
@@ -0,0 +1,197 @@
...
+  simp [homogenize, SetLike.coe]
+
+variable [IsModuleConvexSpace R W]
+
+variable (A) in
+def dehomogenize (C : PointedCone R W) : ConvexSet R A :=
+  ⟨_, C.isConvexSet.preimage hom.ofPoint.isAffineMap⟩
+
+lemma ofPoint_dehomogenize_eq_inter_ofPoint (C : PointedCone R W) :
+    hom.ofPoint '' (dehomogenize A C) = (C : Set W) ∩ hom.ofPoint.range := by
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/ConvexSet.lean:42]: Let's do it the other way around: can you figure out what features you need to make this an equality about convex sets? I implemented map/comap, but I believe we need more. For example, we might need coercion from affine subspace to ConvexSet.

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/ConvexSet.lean [hunk 27]
```diff
@@ -0,0 +1,197 @@
...
+variable {V : Type*} [AddCommGroup V] [Module R V]
+variable {A : Type*} [AddTorsor V A]
+variable {W : Type*} [AddCommGroup W] [Module R W]
+variable [hom : Affine.Homogenization R A W]
+
+attribute [local instance] AddTorsor.toConvexSpace
+
+variable (W) in
+/-- The homogenization cone of a convex set in an affine space. -/
+def homogenize (P : ConvexSet R A) := PointedCone.hull R (hom.ofPoint '' P)
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/ConvexSet.lean:22]: Better put this in namespace `ConvexSet`? So the name becomes free for homogenizing general sets, *and* we can write `K.homogenize`.

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/ConvexSet.lean (hunk 14 above)
Comment (martinwintermath) [reply Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/ConvexSet.lean]: ok, lets postpone

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Polytope/Face.lean [hunk 28]
```diff
@@ -0,0 +1,43 @@
...
+
+section Field
+
+variable [LinearOrder R] [Field R] [IsStrictOrderedRing R]
+variable [AddCommGroup V] [Module R V] [AddTorsor V A]
+attribute [local instance] AddTorsor.toConvexSpace
+variable {C : ConvexSet R A}
+
+/-- Faces of polytopes are polytopes. -/
+theorem face_isPolytope (hCfg : IsPolytope R (C : Set A)) (F : C.Face) : IsPolytope R (F : Set A) :=
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Polytope/Face.lean:19]: This mixes proposition with bundled object.

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Polytope/Face.lean [hunk 29]
```diff
@@ -0,0 +1,43 @@
...
+  letI := IsModuleConvexSpace.ofAddTorsor (R := R) (V := (CanonicalHomogenization R A))
+  have homC := IsPolytope.of_homogenize_FG (W := (CanonicalHomogenization R A)) hCfg
+  have homF := hom.homogenize_isFaceOf F.isFaceOf
+  have := PointedCone.IsFaceOf.fg homC homF
+  convert FG.dehomogenize_isPolytope this (fun _ a b ↦ hom.weight_pos_of_mem_homogenize a b)
+  simp [hom.dehomogenize_homogenize]
+
+/-- The face lattice of a polytope is graded by Homogenization cone face dimension. -/
+@[reducible]
+private noncomputable def Polytope.faceHomogenizationGradeOrder
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Polytope/Face.lean:31]: This also mixes proposition with bundled object
